US08222246B2
6-[3-(4-Fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N-(3-methyl-oxetan-3-yl)-nicotinamide
To a solution of 6-[3-(4-fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid (100 mg, 0.29 mmol) in DMF (3.3 mL) was added 1,1′-carbonyl-diimidazole (58.2 mg, 0.35 mmol). The reaction mixture was stirred for 1 h at 60° C. 3-Methyl-3-oxetanamine (27.8 mg, 0.32 mmol) was then added at room temperature and the mixture was stirred overnight. Extraction with water/ethyl acetate and chromatography (silica, ethyl acetate:heptane=1:4 to 1:1) afforded the title compound (10 mg, 8%) as a white solid. MS: m/e=414.2 [M+H]+.

reactant | 6-[3-(4-fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-nicotinic acid | 0.29 mmol, 100 mg | FC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)O)C=C1)CO | C17H13FN2O5
reactant | 1,1′-carbonyl-diimidazole | 0.35 mmol, 58.2 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 3-Methyl-3-oxetanamine | 0.32 mmol, 27.8 mg | CC1(COC1)N | C4H9NO
solvent | DMF | 3.3 mL | CN(C)C=O | C3H7NO
product | 6-[3-(4-Fluoro-phenyl)-5-hydroxymethyl-isoxazol-4-ylmethoxy]-N-(3-methyl-oxetan-3-yl)-nicotinamide | 10 mg, 8% | FC1=CC=C(C=C1)C1=NOC(=C1COC1=NC=C(C(=O)NC2(COC2)C)C=C1)CO | C21H20FN3O5
